US04873232
Preparation of 2-ethoxycarbonylamino-6-propylbenzoic Acid and Related Compounds of Formula (I-C2) by Reaction Scheme III
A solution of 2-ethoxycarbonylamino-6-propenylbenzoic acid (220 mg) in ethanol was hydrogenated at 50 psi hydrogen over 10% palladium on charcoal. After 3 hours, the catalyst was filtered through Celite and the filtrate evaporated to give an oily solid (194 mg). IR νmax =1680-1740 (br), 2500-3200 (br).

reactant | 2-ethoxycarbonylamino-6-propenylbenzoic acid | 220 mg | C(C)OC(=O)NC1=C(C(=O)O)C(=CC=C1)C=CC | C13H15NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 2-ethoxycarbonylamino-6-propylbenzoic Acid | 194 mg | C(C)OC(=O)NC1=C(C(=O)O)C(=CC=C1)CCC | C13H17NO4
